subckt ind_ncss p1 n1 p2 n2
parameters A=[ -3.6422932930218762e+018 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -9.9009898502674545e+010 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -5.0000058144762602e+009 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -3.6422932930218762e+018 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -9.9009898502674545e+010 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -5.0000058144762602e+009]
parameters B=[ 1.0000000000000000e+000 0.0000000000000000e+000 1.0000000000000000e+000 0.0000000000000000e+000 1.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 1.0000000000000000e+000 0.0000000000000000e+000 1.0000000000000000e+000 0.0000000000000000e+000 1.0000000000000000e+000]
parameters C=[ -1.4579800784138414e+024 -9.7059009732639961e+009 1.0000000093667308e+009 1.3266300658115868e+024 -3.9592266026765998e+002 -9.9999991720180070e+008 1.3266300658115868e+024 -3.9592266026765998e+002 -9.9999991720180070e+008 -1.4579800783245219e+024 -9.7059009649416122e+009 1.0000000054324465e+009]
parameters D=[ 4.0029188156254753e+005 -3.6422933549948077e+005 -3.6422933549948077e+005 4.0029188153802406e+005]
parameters Aw=[ -3.6422932930218762e+018 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -9.9009898502674545e+010 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -5.0000058144762602e+009 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -3.6422932930218762e+018 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -9.9009898502674545e+010 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 -5.0000058144762602e+009]
parameters Bw=[ -3.2603111220038321e+021 -8.7236707951384947e+017 5.7305917222898842e+010 2.2661774787250153e+010 -4.1220284494170055e+009 7.2382916929692626e+008 2.9662257890648397e+021 -1.3531939775599013e+021 -4.2742925858721741e+010 4.4391061873713280e+010 4.0509218729684653e+009 -1.0512275340959212e+009]
parameters Cw=[ 1.0000000000000000e+000 1.0000000000000000e+000 1.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 0.0000000000000000e+000 1.0000000000000000e+000 1.0000000000000000e+000 1.0000000000000000e+000]
parameters Dw=[ 8.9475346499753493e+002 0.0000000000000000e+000 -8.1414456550997375e+002 3.7115009029585894e+002]
parameters noisetemp=27
parameters noiseref=2*P_K*(noisetemp+P_CELSIUS0)

Xmod (p1 n1 p2 n2) cktrom a=A b=B c=C d=D
I1 (p1 n1) cccs gain=-1 probe=V1
I2 (p2 n2) cccs gain=-1 probe=V2
Xnoise (s1 0 s2 0) cktrom a=Aw b=Bw c=Cw d=Dw
V1 (s1 0) vsource  noisevec=[1 noiseref]
V2 (s2 0) vsource  noisevec=[1 noiseref]
ends ind_ncss
