subckt symind_ncss p1 n1 p2 n2
parameters A=[ -1.6369072822417494e+14 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.1661683988658011e+11 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.8513214739633957e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.5832462812320285e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -2.6244399087010798e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.6369072822417494e+14 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.1661683988658011e+11 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.8513214739633957e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.5832462812320285e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -2.6244399087010798e+09]
parameters B=[ 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00]
parameters C=[ -1.5760951489905381e+13 -1.1438538103185312e+08 4.8925318403459060e+08 4.7836531973303785e+09 3.4792414164493189e+09 1.2060482248425248e+13 -1.1399246080956836e+08 -1.4127449855128282e+08 -4.8501534114674692e+09 3.4135245699859500e+09 1.2060482635166096e+13 -1.1399383203453423e+08 -1.4127384245087704e+08 -4.8501541353546400e+09 3.4135250535656753e+09 -1.5977211780204559e+13 -1.2044804317232275e+08 4.8349612401026416e+08 4.5491161084936981e+09 3.6519477867507935e+09]
parameters D=[ 9.7615370175852034e-02 -7.3812646559147266e-02 -7.3812646559147266e-02 9.8933170830163966e-02]
parameters Aw=[ -1.6369072822417494e+14 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.1661683988658011e+11 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.8513214739633957e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.5832462812320285e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -2.6244399087010798e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.6369072822417494e+14 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.1661683988658011e+11 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.8513214739633957e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.5832462812320285e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -2.6244399087010798e+09]
parameters Bw=[ -8.0396558875545266e+13 -3.0976987762332876e+12 3.9545390639294983e+10 1.0827488696891134e+10 -3.8287215449464424e+10 -1.0874651423781637e+10 7.7446602017110825e+10 2.6541960940460735e+10 -5.7623065803588760e+10 -2.0548515823846947e+10 5.8733639648795859e+13 -5.5698570101074984e+13 -2.2585530816447090e+10 3.3887068191369881e+10 2.1613691610776432e+10 -3.3107822262091003e+10 -4.0814604198576813e+10 7.0576616218881500e+10 2.9856184319083183e+10 -5.3147509641041801e+10]
parameters Cw=[ 1.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00]
parameters Dw=[ 4.4184922807639265e-01 0.0000000000000000e+00 -3.3410784434542712e-01 2.9366356601931365e-01]
parameters noisetemp=27
parameters noiseref=2*P_K*(noisetemp+P_CELSIUS0)

Xmod (p1 n1 p2 n2) cktrom a=A b=B c=C d=D
I1 (p1 n1) cccs gain=-1 probe=V1
I2 (p2 n2) cccs gain=-1 probe=V2
Xnoise (s1 0 s2 0) cktrom a=Aw b=Bw c=Cw d=Dw
V1 (s1 0) vsource  noisevec=[1 noiseref]
V2 (s2 0) vsource  noisevec=[1 noiseref]
ends symind_ncss
